US04113715
N,S-Diacetyl-DL-cysteinyl-L-proline tert-butyl ester (1.9 g) is dissolved in a mixture of anisole (6 ml) and trifluoroacetic acid (12 ml) and the solution is stored at room temperature for one hour. The solvents are removed in vacuo and the residue is precipitated from ethyl acetate-ether-hexane, to obtain N,S-diacetyl-DL-cysteinyl-L-proline, yield 1.08 g, m.p. 80°-140°.

reactant | N,S-Diacetyl-DL-cysteinyl-L-proline tert-butyl ester | 1.9 g | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(NC(C)=O)CSC(C)=O)=O)=O | C16H26N2O5S
solvent | anisole | 6 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 12 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N,S-diacetyl-DL-cysteinyl-L-proline | C(C)(=O)NC(CSC(C)=O)C(=O)N1[C@H](C(=O)O)CCC1 | C12H18N2O5S
